US05204462
10% Pd-C (1.40 g) was added to a 1% water-containing methanol solution (150 ml) of N-(5-phenylpentanoyl)-L-proline benzyl ester (13.87 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for two hours. After the catalyst was filtered off, the filtrate was concentrated to obtain N-(5-phenylpentanoyl)-L-proline (10.04 g).

reactant | water | O | H2O
reactant | N-(5-phenylpentanoyl)-L-proline benzyl ester | 13.87 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CCCCC1=CC=CC=C1)=O)=O | C23H27NO3
catalyst | Pd-C | 1.40 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | N-(5-phenylpentanoyl)-L-proline | 10.04 g | C1(=CC=CC=C1)CCCCC(=O)N1[C@H](C(=O)O)CCC1 | C16H21NO3
